Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
indomethacin / ___ / amlodipine / chlorthalidone
 
Attending: ___.
 
Chief Complaint:
pulmonary nodule

 
Major Surgical or Invasive Procedure:
___
VATS, right middle lobe wedge resection

 
History of Present Illness:
Ms. ___ is a ___, former light
smoker (quit ___, with hx of thyroid ca, osteorporosis, and
hyperparathyroidism with incidental 6 mm RML nodule noted on
SPECT ___. Dedicated CT Chest ___ confirmed the 6 mm
solid perifissural nodule. Had a repeat chest CT ___, which
showed that the nodule was stable. Chest CT ___ showed 
growth
in the nodule, now measuring 11 mm. Has other small nodules,
which are stable. Referred for surgical discussion.

Seen in clinic ___. pt reports minimal physical symptoms. She 
notes that she
does get more winded now, especially when walking up stairs. She
lives on the ___ floor and takes the stairs every day, and while
she becomes mildly short of breath, is able to do this without a
significant issue. States she sometimes has episodes of fatigue.
Also has had recurrent joint swelling, for which she is being
worked up by rheumatology. Denies cardiac history. Denies 
history
of bleeding problems. No prior lung surgeries.

 
Past Medical History:
Histoplasmosis
Positive PPD 
Migraine without aura 
Pulmonary nodules/lesions, multiple 
Hypertension, essential 
Esophageal reflux 
Cancer of thyroid 
Hyperparathyroidism with hypercalcemia, FNA localized 
parathyroid
lesion - surgery advised 
Allergic rhinitis 
Osteoporosis 
Acne 
Vitamin D insufficiency 
Overweight (BMI 25.0-29.9) 
Anxiety 
Hypercholesteremia 
Gout of foot 
Myopia with presbyopia of both eyes 
Psychophysiological insomnia 
Combined form of senile cataract of both eyes
s/p thyroidectomy ___
s/p lymphoidectomy x ___
s/p parathyroidectomy 
s/p cataract surgery
s/p appendectomy  
________________________________________________________________
 
Social History:
___
Family History:
CAD/PVD - Early                Maternal Grandmother  
___ Cancer                  Mother                
Diabetes - Type II             Mother                
Cancer - Breast                Mother                
Diabetes - Type II             Maternal Aunt         
Bone cancer                    Maternal Uncle        Alcoholism  

Father                 

 
Physical Exam:
Vitals: T97.9 PO BP111 / 65 HR59 RR18 94% RA (ambulatory)
Gen: [X] NAD, [] AAOx3
CV: [X] RRR, [] murmur
Resp: [X] breaths unlabored, [X] CTAB, [] wheezing, [] rales
Abdomen: [X] soft, [] distended, [] tender, [] rebound/guarding
Wound: [X] incisions clean, dry, intact
Ext: [X] warm, [] tender, [] edema

 
Pertinent Results:
___ 05:14AM BLOOD WBC-13.5* RBC-4.05 Hgb-11.6 Hct-35.7 
MCV-88 MCH-28.6 MCHC-32.5 RDW-13.6 RDWSD-44.0 Plt ___
___ 05:14AM BLOOD Glucose-124* UreaN-12 Creat-1.0 Na-140 
K-4.7 Cl-103 HCO3-25 AnGap-12
___ 05:14AM BLOOD Calcium-9.0 Phos-3.1 Mg-1.8

Imaging
PACU CXR ___
IMPRESSION:  
  
Evolving postsurgical changes following wedge resection the 
right.  
Right-sided chest drain is in place.  Cardiomediastinal 
silhouette is 
unremarkable.  There is a trace right pneumothorax.  
Subcutaneous emphysema 
seen the right lateral chest wall. 
  

Post-pull CXR ___
IMPRESSION:  
  
Heart size and mediastinum are stable.  Lungs overall clear.  
Right basal 
atelectasis is new.  Right chest tube has been discontinued.  
There is no 
pneumothorax.  There is no appreciable pulmonary edema. 

 
Brief Hospital Course:
Ms ___ was admitted to the Thoracic Surgery service 
following a VATS RML wedge resection. Procedure was 
uncomplicated, and the patient was taken to ___ then the 
surgical floor for recovery. For details of the operation, 
please see surgeon's operative note.

While in the PACU Ms. ___ had some desaturations to the 
mid ___ which improved with facemask. Her chest tube had no air 
leak on waterseal and scant drainage. PACU chest x-ray did not 
demonstrate any pneumothorax. Overnight, she had some nausea due 
to anesthesia, and this subsided.

On postoperative day 1 her chest tube was removed.  A post pull 
chest x-ray demonstrated no pneumothorax and some basilar 
atelectasis.  Initially she had some desaturations to the high 
___ on room air.  However with incentive spirometry and 
pulmonary toilet, she saturated above 94% on room air while 
ambulating.

By day of discharge Ms. ___ was tolerating a regular diet 
ambulating independently saturating well on room air, with pain 
well-controlled.  She was therefore medically ready for 
discharge with follow-up in thoracic surgery clinic.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. PredniSONE 5 mg PO DAILY 
2. Enalapril Maleate 10 mg PO BID 
3. NIFEdipine (Extended Release) 30 mg PO DAILY 
4. Pantoprazole 40 mg PO Q24H 
5. calcium citrate-vitamin D3 200 mg calcium -250 unit oral TID 
6. Levothyroxine Sodium 100 mcg PO 5X/WEEK (___) 
7. Levothyroxine Sodium 50 mcg PO 1X/WEEK (SA) 
8. Vitamin D ___ UNIT PO QHS 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*14 Capsule Refills:*0 
3.  Milk of Magnesia 30 mL PO QHS:PRN constipation  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: .
RX *oxycodone 5 mg ___ tablets tablet(s) by mouth every 6 hours 
prn Disp #*20 Tablet Refills:*0 
5.  calcium citrate-vitamin D3 200 mg calcium -250 unit oral TID 
 
6.  Enalapril Maleate 10 mg PO BID  
7.  Levothyroxine Sodium 100 mcg PO 5X/WEEK (___)  
8.  Levothyroxine Sodium 50 mcg PO 1X/WEEK (SA)  
9.  NIFEdipine (Extended Release) 30 mg PO DAILY  
10.  Pantoprazole 40 mg PO Q24H  
11.  PredniSONE 5 mg PO DAILY 
You take this as needed for flares.  
12.  Vitamin D ___ UNIT PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right middle lobe nodule.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for lung surgery and you've 
recovered well. You are now ready for discharge. 

* Continue to use your incentive spirometer 10 times an hour 
while awake.

* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.

* Your chest tube dressing may be removed in 48 hours.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.

* You may need pain medication once you are home but you can 
wean it over the next week as the discomfort resolves.  Make 
sure that you have regular bowel movements while on narcotic 
pain medications as they are constipating which can cause more 
problems.  Use a stool softener or gentle laxative to stay 
regular.

* No driving while taking narcotic pain medication.

* Take Tylenol on a standing basis to avoid more opiod use.

* Continue to stay well hydrated and eat well to heal your 
incisions

* No heavy lifting > 10 lbs for 4 weeks.

* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
  * No tub bathing, swimming or hot tubs until incision healed
  * No lotions or creams to incision site

* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

 Call Dr. ___ ___ if you experience:
  -Fevers > 101 or chills
  -Increased shortness of breath, chest pain or any other 
symptoms that concern you.

** If pathology specimens were sent at the time of surgery, the 
reports will be reviewed with you in detail at your follow up 
appointment. This will give both you and your doctor time to 
understand the pathology, its implications and discuss options 
going forward.**

 

 
 
Followup Instructions:
___